US06583139B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-4-(methanesulfonamido)-L-phenylalanine
To a solution of 3-(4-methanesulfonylamino-phenyl)-2-{[1-(toluene-4-sulfonyl)-pyrrolidine-2-carbonyl]-amino}-propionic acid methyl ester (0.250 g, 0.477 mmol) in THF (1.0 mL) was added 1H LiOH (955 mL, 0.955 mmol) and the clear solution was stirred at 25° C., under nitrogen, for 16 h. The reaction solution was then diluted with additional water (50 mL) and washed with diethyl ether (25 mL). The aqueous layer was lyophilized to afford a fluffy white solid (0.216 g, 87%). MS (=ESI): 508 [M−1]−

reactant | 3-(4-methanesulfonylamino-phenyl)-2-{[1-(toluene-4-sulfonyl)-pyrrolidine-2-carbonyl]-amino}-propionic acid methyl ester | 0.477 mmol, 0.250 g | COC(C(CC1=CC=C(C=C1)NS(=O)(=O)C)NC(=O)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O | C23H29N3O7S2
reactant | LiOH | 0.955 mmol, 955 mL | [Li+].[OH-]
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | N-(Toluene-4-sulfonyl)-L-prolyl-4-(methanesulfonamido)-L-phenylalanine | 0.216 g, 87% | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=C(C=C2)NS(=O)(=O)C)C(=O)O)CCC1)C | C22H27N3O7S2
